US09428483B2
Synthesis of (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((octanoyloxy)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid (A-6)
(1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid (A-1-2, 300 mg) and chloromethyl octanoate (483 mg) were treated in the same manner as in Example A-1 (3) and (4) to give the title compound (A-6, 95 mg) as a colorless solid.

reactant | (1S,2S,3S,5R,6S)-3′-((Allyloxy)carbonyl)-3-fluoro-5′-oxospiro[bicyclo[3.1.0]hexan-2,4′-oxazolidine]-6-carboxylic acid | 300 mg | C(C=C)OC(=O)N1COC([C@]12[C@@H]1[C@H]([C@@H]1C[C@@H]2F)C(=O)O)=O | C13H14FNO6
reactant | chloromethyl octanoate | 483 mg | C(CCCCCCC)(=O)OCCl | C9H17ClO2
product | (1S,2S,3S,5R,6S)-2-amino-3-fluoro-6-(((octanoyloxy)methoxy)carbonyl)bicyclo[3.1.0]hexane-2-carboxylic acid | 95 mg | N[C@@]1([C@@H]2[C@H]([C@@H]2C[C@@H]1F)C(=O)OCOC(CCCCCCC)=O)C(=O)O | C17H26FNO6
